US07074809B2
2-Cyano-piperidine-1-carboxylic acid tert-butyl ester
Piperidine-1,2-dicarboxylic acid-1-tert-butyl ester (12.8 g, 55.6 mmol) and THF (170 mL) were added to a 500 mL round bottom flask equipped with stir bar. The solution was cooled to −20° C. and triethylamine (10.1 mL, 72.3 mmol) was added followed by ethyl chloroformate (5.32 mL, 55.6 mmol). The resulting white precipitate was left stirring at −10° C. for 1 h. Aqueous ammonia (22.6 mL, 1168 mmol) was added to the above reaction mixture and the clear reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the isolated residue was dissolved in ethyl acetate (300 mL). The organic phase was successively washed with water (300 mL) and brine (200 mL), dried (sodium sulfate), filtered and concentrated in vacuo to isolate a clear gum. The gum was triturated with hexanes to isolate the title compound (9.4 g, 74%) as a white solid. 1H-NMR (CDCl3), δ(ppm): 6.03 (bs, 1H), 5.55 (bs, 1H), 4.77 (bs, 1H), 4.05 (bs, 1H), 2.81 (t, 1H), 2.27 (bs, 1H), 1.47 (m, 14H).

reactant | Piperidine-1,2-dicarboxylic acid-1-tert-butyl ester | 55.6 mmol, 12.8 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
reactant | triethylamine | 72.3 mmol, 10.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 55.6 mmol, 5.32 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 1168 mmol, 22.6 mL | N | H3N
solvent | THF | 170 mL | C1CCOC1 | C4H8O
product | 2-Cyano-piperidine-1-carboxylic acid tert-butyl ester | 9.4 g, 74% | C(C)(C)(C)OC(=O)N1C(CCCC1)C#N | C11H18N2O2
